US06462227B2
10.6 g of stabilized IBX prepared as in Example 10 are suspended in 60 ml of N-methylpyrrolidone at 20° C., and 2 g of cyclooctanol are added dropwise while maintaining the temperature at from 20° C. to 25° C. After 2 hours, agitation, the medium is poured into a mixture of 130 ml of water and 80 ml of toluene; the pH of the aqueous phase is brought to approximately 7 by the addition of aqueous NaOH and the organic phase, after separation of the insoluble material formed and of the aqueous phase, is concentrated to give 1.4 g of pure cyclooctanone (NMR and GPC)

reactant | cyclooctanol | 2 g | C1(CCCCCCC1)O | C8H16O
reactant | water | 130 ml | O | H2O
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | [OH-].[Na+]
solvent | N-methylpyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
product | cyclooctanone | 1.4 g | C1(CCCCCCC1)=O | C8H14O
